US04093732
To a stirred mixture 9.75 g (0.05 mole) of 2-nitro-4-thiocyanoaniline in 500 ml of absolute ethanol under N2, there is added 2.1 g of sodium borohydride in portions. The mixture is stirred at room temperature for 3 hours. 3.25 g (0.05 mole) of KOH in 30 ml of absolute ethanol is added. The mixture is stirred for 1 minute. A solution of 8.7 g (0.05 mole) of 1,1-dichloro-2-chloromethyl-2-methylcyclopropane in 15 ml of absolute ethanol is added and the mixture is refluxed for 3 hours. Equal amounts of H2O and CHCl3 are added until two layers are formed. The organic layer is separated, dried (MgSO4), and the solvent removed in vacuo to give a red oil which is triturated with 10 ml of absolute ethanol to yield 9.6 g of 2-nitro-4-[(2,2-dichloro-1-methylcyclopropyl)methyl]thioaniline as a solid, m.p. 76-78° C.

reactant | 2-nitro-4-thiocyanoaniline | 0.05 mole, 9.75 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)SC#N | C7H5N3O2S
reactant | sodium borohydride | 2.1 g | [BH4-].[Na+]
reactant | KOH | 0.05 mole, 3.25 g | [OH-].[K+]
reactant | 1,1-dichloro-2-chloromethyl-2-methylcyclopropane | 0.05 mole, 8.7 g | ClC1(C(C1)(C)CCl)Cl | C5H7Cl3
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | O | H2O
product | 2-nitro-4-[(2,2-dichloro-1-methylcyclopropyl)methyl]thioaniline | 9.6 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)SCC1(C(C1)(Cl)Cl)C | C11H12Cl2N2O2S
